US07612075B2
B. 3-(5-Chloro-thiophen-2-yl)-propionic acid.
Silver nitrate (117 mg, 0.69 mmol) in 1 mL of H2O is added to 1.36 mL of 1N NaOH at 0° C. and stirred for 5 minutes. To the brown suspension is added 3-(5-chloro-thiophen-2-yl)-propionaldehyde (60 mg, 0.34 mmol) and the resulting mixture is allowed to warm to room temperature over 2 hours. The precipitate is filtered and washed with hot water (2×). The combined aqueous layers are acidified with 6 N HCl and extracted with EtOAc (2×). The combined organic layers are washed with water (2×), then dried over MgSO4, filtered and concentrated in vacuo to give the title compound (50 mg, 0.26 mmol) as a beige solid. The crude material can be used in the subsequent step without further purification. 1H NMR (CDCl3, 300 MHz) δ6.72 (d, 1H), 6.60 (d, 1H), 3.07 (t, 2H), 2.71 (t, 2H).

reactant | NaOH | 1N, 1.36 mL | [OH-].[Na+]
reactant | 3-(5-chloro-thiophen-2-yl)-propionaldehyde | 0.34 mmol, 60 mg | ClC1=CC=C(S1)CCC=O | C7H7ClOS
solvent | H2O | 1 mL | O | H2O
catalyst | Silver nitrate | 0.69 mmol, 117 mg | [N+](=O)([O-])[O-].[Ag+]
product | 3-(5-Chloro-thiophen-2-yl)-propionic acid | 0.26 mmol, 50 mg | ClC1=CC=C(S1)CCC(=O)O | C7H7ClO2S
